US04186270
The above examples are directed specifically to the production of ibuprofen, 2-(4-isobutylphenyl)propionic acid. However, the procedures and limits described in those examples are also illustrative of the application of the process to the production of other related acids of the class previously defined. Thus, by substituting cyclohexylbenzene for the isobutylbenzene starting material in Example 1 and proceeding as described in Examples 1-4, the product of the process is 2-(4-cyclohexylphenyl)propionic acid which is obtained in similar purity and yield. In the same way, when ethyl chloride is used in place of methyl chloride in the alkylation step of Example 3 and the procedures of Examples 3 and 4 are otherwise repeated, the final product is butibufen, 2-(4-isobutylphenyl)butyric acid, also obtained in good purity and yield as described. Similarly, using benzene in place of isobutylbenzene as a starting material in this process, a good yield of pure 2-phenylpropionic acid is produced. Likewise, tert-butylbenzene as the starting benzene reactant produces 2-(4-tert-butylphenyl)propionic acid, 1,1-diethylpropylbenzene produces 2-(4-(1,1-diethylpropyl)phenyl)propionic acid, and isopropylbenzene produces 2-(4-isopropylphenyl)propionic acid. In the same way, the appropriate alkylbenzene reactant and alkylating halide produce the compounds 2-(4-cyclopentylphenyl)propionic acid, 2-(4-(1-methylcyclohexyl)phenyl)propionic acid, 2-(4-tert-butylphenyl)butyric acid, 2-(4-isopentylphenyl)butyric acid, and 2-(4-cyclohexylphenyl)butyric acid.

reactant | butibufen | CCC(C=1C=CC(=CC1)CC(C)C)C(=O)O | C14H20O2
reactant | 2-(4-isobutylphenyl)butyric acid | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)CC | C14H20O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-phenylpropionic acid | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
